US05710130
A) Preparation of 3-methyl-6-cyanopyridazine
To a stirring solution of 3-methylpyridazine (11 g, 118 mmol) in dichloromethane (200 mL) was added AlCl3 (0.05 g) followed by trimethylsilylcyanide (21 g, 211 mmol). After 20 min, a solution of p-toluenesulfonyl chloride (38 g, 201 mmol) in dichloromethane (50 mL) was added via addition funnel and the solution continued to stir overnight. The next morning, the solvent was removed in vacuo and the residue was suspended in ethanol with stirring for 15 min and then filtered to give a white solid. The solid was dissolved in tetrahydrofuran (200 mL) and to this stirring solution was added 1,8-diazabicyclo[5.4.0]undec-7-ene (16 mL, 105 mmol). After 1 h, the solvent was removed in vacuo and the residue was partitioned between hexanes and saturated aqueous NH4Cl. The phases were separated and the aqueous phase was basified with solid Na2CO3, then extracted three times with ethyl acetate. The combined ethyl acetate phases were dried (MgSO4), filtered and concentrated in vacuo to give 9 g (64%) of white solid.

reactant | 3-methylpyridazine | 118 mmol, 11 g | CC=1N=NC=CC1 | C5H6N2
reactant | trimethylsilylcyanide | 211 mmol, 21 g | C[Si](C)(C)C#N | C4H9NSi
reactant | p-toluenesulfonyl chloride | 201 mmol, 38 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 105 mmol, 16 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
catalyst | AlCl3 | 0.05 g | [Al+3].[Cl-].[Cl-].[Cl-]
product | 3-methyl-6-cyanopyridazine | 9 g, 64% | CC=1N=NC(=CC1)C#N | C6H5N3
